US04576749
(A) (S)-N-[[3-[[(t-Butyloxy)carbonyl]amino]-2-oxo-1-azetidinyl]thioxomethyl]glycine, t-butyl ester
A solution of (S)-3-[[(t-butyloxy)carbonyl]amino]-2-azetidinone (186 mg, 1 mmol) in 6 ml of dry tetrahydrofuran at -75° C. was treated with 0.65 ml (1.1 mmol) of 1.68N n-butyl lithium. After 30 minutes, a solution of t-butyl isothiocyanatoacetate (0.17 ml, 1.1 mmol) in 1 ml of dry tetrahydrofuran was added to the reaction mixture. After stirring at -75° C. for 2 hours, the reaction mixture was placed at -70° C. overnight.

reactant | (S)-3-[[(t-butyloxy)carbonyl]amino]-2-azetidinone | 1 mmol, 186 mg | C(C)(C)(C)OC(=O)N[C@@H]1C(NC1)=O | C8H14N2O3
reactant | n-butyl lithium | 1.1 mmol, 1.68N, 0.65 ml | C(CCC)[Li]
reactant | t-butyl isothiocyanatoacetate | 1.1 mmol, 0.17 ml | N(=C=S)CC(=O)OC(C)(C)C | C7H11NO2S
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | (S)-N-[[3-[[(t-Butyloxy)carbonyl]amino]-2-oxo-1-azetidinyl]thioxomethyl]glycine, t-butyl ester | C(C)(C)(C)OC(=O)N[C@@H]1C(N(C1)C(NCC(=O)OC(C)(C)C)=S)=O | C15H25N3O5S
